US06274588B1
To a solution of 8.3 g (25.8 mmol) 4-(2-bromo-phenyl)-2-methyl-pyrimidine-5-carboxylic acid ethyl ester in 10 ml ethanol 1.55 g (38.6 mmol) NaOH in 20 ml H2O was added. After stirring for 1 hr., the reaction mixture was washed with 100 ml diethylether. The pH of the aqueous phase was adjusted to 1 with 25% HCl and than extracted twice with 200 ml CH2Cl2. The combined organic layers were dried (MgSO4), filtrated and evaporated to give 7.0 g (92%) 4-(2-bromo-phenyl)-2-methyl-pyrimidine-5-carboxylic acid as a pale yellow foam.

reactant | 4-(2-bromo-phenyl)-2-methyl-pyrimidine-5-carboxylic acid ethyl ester | 25.8 mmol, 8.3 g | C(C)OC(=O)C=1C(=NC(=NC1)C)C1=C(C=CC=C1)Br | C14H13BrN2O2
reactant | ethanol | 38.6 mmol, 10 ml, 1.55 g | C(C)O | C2H6O
solvent | H2O | 20 ml | O | H2O
product | 4-(2-bromo-phenyl)-2-methyl-pyrimidine-5-carboxylic acid | 7.0 g, 92% | BrC1=C(C=CC=C1)C1=NC(=NC=C1C(=O)O)C | C12H9BrN2O2
